US05843942
A solution of methyl 2-[N-(2-benzyloxy-5-bromobenzyl)-N-ethylamino]pyridine-5-carboxylate (10.0 g, 22 mmol) in dichloromethane (150 mL) was treated with trichloride dimethyl sulphide complex (40 ml, 2M, 80 mmol). The reaction was stirred at ambient temperature for 28 hours. Saturated aqueous sodium hydrogen carbonate solution was added and the layers separated. The aqueous layer was washed with dichloromethane, the organic layers combined, dried (MgSO4) and evaporated to give an off-white solid. This was subjected to chromatography to give methyl 2-[N-(2-hydroxy-5-bromobenzyl)-N-ethylamino]pyridine-5-carboxylate (6.0 g, 75%).

reactant | methyl 2-[N-(2-benzyloxy-5-bromobenzyl)-N-ethylamino]pyridine-5-carboxylate | 22 mmol, 10.0 g | C(C1=CC=CC=C1)OC1=C(CN(CC)C2=NC=C(C=C2)C(=O)OC)C=C(C=C1)Br | C23H23BrN2O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | methyl 2-[N-(2-hydroxy-5-bromobenzyl)-N-ethylamino]pyridine-5-carboxylate | 6.0 g, 75% | OC1=C(CN(CC)C2=NC=C(C=C2)C(=O)OC)C=C(C=C1)Br | C16H17BrN2O3
